US08580785B2
b) Preparation of 3-chloro-2-fluoro-4-methylamino-5-nitro-benzoic acid methyl ester
A solution of 5.30 g (21.32 mmol) of 3-chloro-2-fluoro-4-methylamino-5-nitro-benzoic acid in 53 mL of THF and 13.75 ml of MeOH is cooled to a temperature of 0° C. Then, 13.86 ml (27.72 mmol) of trimethylsilyl-diazomethane (2 M in diethylether) were added portion wise at a temperature of 0° C. The mixture is stirred 30 min at a temperature of 0° C. and 30 min at ambient temperature. The reaction mixture is evaporated with acetic acid in the trap. The yellow residue is titurated in diethyl ether and after decantation, 4.3 g (16.37 mmol, 77%) of a yellow solid is isolated. The Et2O phase is evaporated and 1.5 g of impure product is recovered. The crude product is used directly in the next step without purification. 1H-NMR (CDCl3, 300 MHz): ? ppm=3.30 (d, 3H), 3.95 (s, 3H), 7.80 (s br, 1H), 8.70 (d, 1H).

reactant | 3-chloro-2-fluoro-4-methylamino-5-nitro-benzoic acid | 21.32 mmol, 5.30 g | ClC=1C(=C(C(=O)O)C=C(C1NC)[N+](=O)[O-])F | C8H6ClFN2O4
reactant | trimethylsilyl-diazomethane | 27.72 mmol, 2 M, 13.86 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 53 mL | C1CCOC1 | C4H8O
solvent | MeOH | 13.75 ml | CO | CH4O
product | 3-chloro-2-fluoro-4-methylamino-5-nitro-benzoic acid methyl ester | 16.37 mmol, 4.3 g, 77% | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])NC)Cl)F)=O | C9H8ClFN2O4
